2157-08-29 11:12:00 Physician Attending Progress Note
Chief Complaint: Hypertension, diastolic CHF, afib
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient had labile pressures last night and head CT was done; no acute
   changes noted.  Patient had two episodes of transient bradycardia to
   the 30's.
   This AM, patient became agitated. Toxic screen showed amphetamines
   present.
   24 Hour Events:
 MULTI LUMEN - START [**2157-8-28**] 03:18 PM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Lisinopril
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2157-8-28**] 10:15 PM
   Heparin Sodium (Prophylaxis) - [**2157-8-29**] 08:21 AM
   Haloperidol (Haldol) - [**2157-8-29**] 10:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-8-29**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.6
C (96.1
   HR: 83 (63 - 89) bpm
   BP: 145/112(120) {114/51(67) - 223/186(190)} mmHg
   RR: 22 (16 - 31) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,467 mL
                                                                  2,006 mL
   PO:
                                                                    150 mL
                                                                    540 mL
   TF:
   IVF:
                                                                  1,117 mL
                                                                  1,466 mL
   Blood products:
   Total out:
                                                                    195 mL
                                                                    338 mL
   Urine:
                                                                    195 mL
                                                                    338 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,272 mL
                                                                  1,668 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , Crackles : Rare, No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Not able to assess because of language barrier,
   Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Not
   assessed
   Labs / Radiology
   10.7 g/dL
   313 K/uL
   119 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.5 mEq/L
   15 mg/dL
   106 mEq/L
   144 mEq/L
   33.3 %
   10.2 K/uL
        [image002.jpg]
                             [**2157-8-28**]  05:04 PM
                             [**2157-8-29**]  02:12 AM
   WBC
   8.4
   10.2
   Hct
   34.2
   33.3
   Plt
   326
   313
   Cr
   0.8
   0.9
   TropT
   <0.01
   <0.01
   Glucose
   187
   119
   Other labs: PT / PTT / INR:13.4/26.6/1.1, CK / CKMB /
   Troponin-T:336/6/<0.01, Ca++:9.1 mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   AFIB
   CHRONIC DIASTOLIC CHF
   ========================
   Ability to get patient off labetalol complicated by appearance of
   amphetamines in his toxic screen (although this may be a "false
   positive" from his labetalol). Will add HCTZ today. Try to wean
   labetalol. Patient had renal artery dopplers, which were negative for
   stenosis during previous admission.
   Heart rate has been well controlled in Afib.
   No evidence of CHF at this time.
   Delirium of unclear etiology. A bit better on Haldol this AM.
   Reportedly has had similar episodes in the past in hospital. Cultures
   being assessed for infection.
   ICU Care
   Nutrition: Oral
 diabetic diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2157-8-28**] 03:18 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  H2 blocker
   VAP:
   Comments: Not applicable
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2157-08-30 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2157-8-29**] 08:00 AM
   - uncooperative, won't take PO meds
   - agitated - started on valium 5mg IV q2 prn CIWA score (haldol if CIWA
   < 10 and still agitated)
   - SBP had episodes in 200s - started on hydralazine 10mg q6hrs for SBP
   >180
   - confused and agitated, psych following
   Allergies:
   Lisinopril
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-8-29**] 08:21 AM
   Diazepam (Valium) - [**2157-8-29**] 08:04 PM
   Haloperidol (Haldol) - [**2157-8-30**] 05:50 AM
   Hydralazine - [**2157-8-30**] 05:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-8-30**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 70 (66 - 89) bpm
   BP: 189/92(110) {99/25(56) - 216/186(190)} mmHg
   RR: 16 (11 - 25) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                  4,559 mL
                  PO:
                                                                  1,020 mL
                  TF:
   IVF:
                                                                  3,539 mL
   Blood products:
   Total out:
                                                                  1,092 mL
                                                                  1,690 mL
   Urine:
                                                                  1,092 mL
                                                                  1,690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,467 mL
                                                                 -1,690 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   263 K/uL
   10.6 g/dL
   128 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.2 mEq/L
   13 mg/dL
   104 mEq/L
   140 mEq/L
   31.0 %
   11.6 K/uL
        [image002.jpg]
                             [**2157-8-28**]  05:04 PM
                             [**2157-8-29**]  02:12 AM
                             [**2157-8-30**]  04:13 AM
   WBC
   8.4
   10.2
   11.6
   Hct
   34.2
   33.3
   31.0
   Plt
   326
   313
   263
   Cr
   0.8
   0.9
   0.8
   TropT
   <0.01
   <0.01
   Glucose
   187
   119
   128
   Other labs: PT / PTT / INR:13.4/26.6/1.1, CK / CKMB /
   Troponin-T:336/6/<0.01, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   .
   U/A clean on admission and contaminated cx (prev [**8-25**] cx neg)
   8/5 Blood cx pending
   Carbamazapime 1.6
   Assessment and Plan
   81 y/o with PMhx of DM, CAD, AS, Diastolic HF and poorly controlled
   hypertension who presented today with hypertensive emergency after
   being non-compliant with BP meds for last 24-48hrs.
   .
   # Hypertensive Emergency:  Did not meet goal of lowering BP by 25% over
   first 24hrs yesterday as BP very labile throughout night with
   agitation.  Cardiac enzymes neg x 3 with numerous EKGs showing a fib.
   Plan for today is transition to po meds while continuing to use the
   labetalol drip as needed.  Two episodes of bradycardia down to the 30s
   with spontaneous resolution.  Pheo workup pending.
   - check UA for proteinuria
   - serial neuro exams
   - continue hydralazine IV, po carvedilol, norvasc, labetalol and HCTZ
   with goal sbp 160-180
   - monitor for pulm edema
   -f/u pheo labs
   - social work consult for med compliance issues (simplify regimen)
   .
   # Altered Mental Status: Very agitated overnight requiring total of
   24mg Haldol and 3mg Ativan. Psych consulted and thought this was [**2-21**]
   delirium, recommended Haldol 5mg q30min as needed to control behavior.
   Urine tox taken while inpt came back positive for amphetamines which
   was negative on ED screen.  Question possible use while inpatient or
   false positive result (which is documented from labetalol).
   - psych following
   -f/u blood and urine cx
   - f/u psych recs
   - continue Haldol to control agitation while monitoring for QTc
   prolongation
   .
   # CAD: Known CAD s/p recent stenting ([**5-28**]) with CE neg x3.
   - continue ASA 325mg, Atorvastatin 40mg daily
   - increase BP regimen slowly as above
   .
   # Chronic Diastolic HF: Currently no clinical evidence of volume
   overload despite significant HTN, in fact appears a little dry.
   - continue Losartan 100mg daily
   - start HCTZ 25mg
   .
   # Seizure Disorder: stable, last seizure in [**2138**]
   - continue Carbamazepine 300mg [**Hospital1 **] and lyrica 100mg TID
   .
   # Afib/Flutter: currently poorly controlled on Labetalol drip, will
   monitor with transition to oral agents.  Pt is not anticoagulated at
   baseline due to fall risk and lack of compliance.
   - continue labetalol with transition to carvedilol 25mg [**Hospital1 **]
   .
   # DM: holding metformin in house
   - BS checks QIDACHS
   - HISS
   - DM/cardiac diet
   .
   # Anxiety: continue Sertraline 125mg daily
   .
   # FEN: Diabetic/Cardiac diet
   - NO IVF, replete electrolytes aggressively
   .
   # Prophylaxis: Heparin sc tid, H2 blocker
   .
   # Access: Left IJ
   .
   # Code: Full  (confirmed with pt & family)
   .
   # Communication: Patient and family
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition: Diabetic/cardiac
   Glycemic Control: Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2157-8-28**] 03:18 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   Communication:  patient and family
   Code status: Full code
   Disposition: ICU

2157-08-30 11:45:00 Physician Attending Progress Note
Chief Complaint: Hypertension, Delirium
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Agitation persisted through most of the day and night. Started on
   valium. Haldol continued. Off labetalol infusion. Hydralazine started
   prn. This AM, patient communicating appropriately with nurse; oriented.
   Diuresed this AM; 2 L negative since midnight.
   Hct drifting down.
   24 Hour Events:
 EKG - At [**2157-8-29**] 08:00 AM
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Encephalopathy, Language barrier
   Allergies:
   Lisinopril
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2157-8-29**] 08:04 PM
   Haloperidol (Haldol) - [**2157-8-30**] 05:50 AM
   Hydralazine - [**2157-8-30**] 05:50 AM
   Heparin Sodium (Prophylaxis) - [**2157-8-30**] 09:00 AM
   Other medications:
   Cozaar, atorvostatin, insulin, iron, ranitidine, heparin sc, ASA,
   tegretol, amlodipine, zoloft, valium, thiamine, HCTZ, labetalol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-8-30**] 11:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.8
C (96.4
   HR: 79 (66 - 86) bpm
   BP: 163/71(95) {99/25(56) - 216/115(134)} mmHg
   RR: 14 (11 - 25) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                  4,559 mL
                  PO:
                                                                  1,020 mL
                  TF:
   IVF:
                                                                  3,539 mL
   Blood products:
   Total out:
                                                                  1,092 mL
                                                                  2,540 mL
   Urine:
                                                                  1,092 mL
                                                                  2,540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,467 mL
                                                                 -2,540 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), II/VI systolic murmur at base radiating to the apex
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : Good air movment bilaterally, No(t) Crackles :
   , No(t) Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent
   : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Not able to assess; language, Movement:
   Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.6 g/dL
   263 K/uL
   128 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.2 mEq/L
   13 mg/dL
   104 mEq/L
   140 mEq/L
   31.0 %
   11.6 K/uL
        [image002.jpg]
                             [**2157-8-28**]  05:04 PM
                             [**2157-8-29**]  02:12 AM
                             [**2157-8-30**]  04:13 AM
   WBC
   8.4
   10.2
   11.6
   Hct
   34.2
   33.3
   31.0
   Plt
   326
   313
   263
   Cr
   0.8
   0.9
   0.8
   TropT
   <0.01
   <0.01
   Glucose
   187
   119
   128
   Other labs: PT / PTT / INR:13.4/26.6/1.1, CK / CKMB /
   Troponin-T:336/6/<0.01, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
   AFIB
   ====================
   Blood pressure gradually improving although remains labile. Very good
   this AM. Mental status much improved this morning; patient taking oral
   meds. Begin to ambulate. Maintain diuresis.
   Renal function normal.
   Heart rate well controlled in afib.
   ICU Care
   Nutrition: Oral
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2157-8-28**] 03:18 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes